US07531532B2
Piperidine-1-carboxylic acid [6-(2-fluoro-4-nitrophenoxy)pyrimidin-4-yl]amide
4-Amino-6-(2-fluoro-4-nitrophenoxy)pyrimidine (300 mg) was dissolved in tetrahydrofuran (5 ml) under a nitrogen atmosphere, and then triethylamine (0.335 ml) and phenyl chloroformate (0.301 ml) were added dropwise thereto while cooling in an ice bath, followed by stirring at room temperature for 45 min. To the reaction mixture was added piperidine (0.446 ml), followed by stirring at room temperature for 45 min. The reaction mixture was partitioned between ethyl acetate and a saturated aqueous solution of ammonium chloride. The organic layer was washed with a saturated aqueous solution of ammonium chloride, a 1 N aqueous solution of sodium hydroxide, water and brine in this order, and dried over anhydrous sodium sulfate. The solvent was evaporated under a reduced pressure to give a residue, which was then purified by silica gel column chromatography (eluent; hexane:ethyl acetate=3:2). Fractions containing the target compound was concentrated under a reduced pressure, and dried in vacuum to provide the titled compound (275.4 mg, 63.5%) as a pale yellow oil.

reactant | 4-Amino-6-(2-fluoro-4-nitrophenoxy)pyrimidine | 300 mg | NC1=NC=NC(=C1)OC1=C(C=C(C=C1)[N+](=O)[O-])F | C10H7FN4O3
reactant | triethylamine | 0.335 ml | C(C)N(CC)CC | C6H15N
reactant | phenyl chloroformate | 0.301 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | piperidine | 0.446 ml | N1CCCCC1 | C5H11N
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | Piperidine-1-carboxylic acid [6-(2-fluoro-4-nitrophenoxy)pyrimidin-4-yl]amide | 275.4 mg, 63.5% | FC1=C(OC2=CC(=NC=N2)NC(=O)N2CCCCC2)C=CC(=C1)[N+](=O)[O-] | C16H16FN5O4
